US05077288
1-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-4-(2-fluorobenzyl) piperazine 2,6-dione hydrochloride
This compound was prepared from 1-(2-chloroethyl)-4-(4-fluorobenzoyl)piperidine and 4-(2-fluorobenzyl) piperazine 2,6-dione according to the process described in Example 3, Stage B.

reactant | 1-(2-chloroethyl)-4-(4-fluorobenzoyl)piperidine | ClCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C14H17ClFNO
reactant | 4-(2-fluorobenzyl) piperazine 2,6-dione | FC1=C(CN2CC(NC(C2)=O)=O)C=CC=C1 | C11H11FN2O2
product | 1-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-4-(2-fluorobenzyl) piperazine 2,6-dione hydrochloride | Cl.FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(CN(CC2=O)CC2=C(C=CC=C2)F)=O)C=C1 | InChI=1S/C25H27F2N3O3.ClH/c26-21-7-5-18(6-8-21)25(33)19-9-11-28(12-10-19)13-14-30-23(31)16-29(17-24(30)32)15-20-3-1-2-4-22(20)27;/h1-8,19H,9-17H2;1H
